US06251926B1
A mixture of ethyl 4-phenoxyphenylglyoxylate (37.9 g), hydroxylamine hydrochloride (11.7 g), sodium acetate (17.3 g) and ethanol (200 ml) was heated under reflux for 15 hours. The reaction mixture was concentrated, and the residue was diluted with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and then concentrated. The residual crystals were recrystallized from toluene-hexane to obtain ethyl E-2-hydroxyimino-2-(4-phenoxyphenyl)acetate (11.0 g, yield 28%) as a colorless oil. m.p. 131-132° C.

reactant | ethyl 4-phenoxyphenylglyoxylate | 37.9 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)=O | C16H14O4
reactant | hydroxylamine hydrochloride | 11.7 g | Cl.NO
reactant | sodium acetate | 17.3 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl E-2-hydroxyimino-2-(4-phenoxyphenyl)acetate | 11.0 g, yield 28% | O\N=C(\C(=O)OCC)/C1=CC=C(C=C1)OC1=CC=CC=C1 | C16H15NO4
